US06043368
N-[(2-methylbenzyl)]-2-(2-thienyl)ethylamine HCl (26.8 g, 0.1 moles) is suspended in 75 ml of 1,3-dioxolane. 0.25 ml of 37% hydrochloride acid is added. The reaction mixture is refluxed for 24 hours. Thereafter, the mixture is cooled to 10° C. and the crystalline precipitate is filtered and washed twice with 5 ml of isopropanol. The product is dried at 60° C. under vacuum to yield 17.4 g (62.7%) of 5-(2-methylbenzyl)-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine HCl having a m.p. of 207-210° C.

reactant | N-[(2-methylbenzyl)]-2-(2-thienyl)ethylamine HCl | 0.1 moles, 26.8 g | Cl.CC1=C(CNCCC=2SC=CC2)C=CC=C1
reactant | hydrochloride | 0.25 ml | Cl | ClH
reactant | 1,3-dioxolane | 75 ml | O1COCC1 | C3H6O2
product | 5-(2-methylbenzyl)-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine HCl | 17.4 g, 62.7% | Cl.CC1=C(CN2CC3=C(CC2)SC=C3)C=CC=C1 | InChI=1S/C15H17NS.ClH/c1-12-4-2-3-5-13(12)10-16-8-6-15-14(11-16)7-9-17-15;/h2-5,7,9H,6,8,10-11H2,1H3;1H
